US08372840B2
ii) N-Benzyl-N-(3-bromo-phenyl)-benzene sulfonamide
A solution of benzyl-(3-bromo-phenyl)-amine (2 g, 7.6 mmol), benzenesulphonyl chloride (3.2 ml, 25 mmol) and pyridine (2.2 ml, 27.5 mmol) in dry dichloromethane (50 ml) were heated to reflux for 15 hrs. The reaction mixture was cooled to room temperature, quenched with water and extracted with dichloromethane (3×75 ml). The organics were combined, dried (magnesium sulphate) and concentrated in vacuo. The crude residue was then purified by column chromatography eluting with dichloromethane to afford the title compound as a white solid (1.45 g, 47%). HPLC retention time 4.93 mins. Mass spectrum (ES+) m/z 402 (M+H).

reactant | benzyl-(3-bromo-phenyl)-amine | 7.6 mmol, 2 g | C(C1=CC=CC=C1)NC1=CC(=CC=C1)Br | C13H12BrN
reactant | benzenesulphonyl chloride | 25 mmol, 3.2 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | pyridine | 27.5 mmol, 2.2 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | N-Benzyl-N-(3-bromo-phenyl)-benzene sulfonamide | 1.45 g, 47% | C(C1=CC=CC=C1)N(S(=O)(=O)C1=CC=CC=C1)C1=CC(=CC=C1)Br | C19H16BrNO2S
